US06177440B1
40% Methanolic Triton B (2.82 mL, 6.2 mM) was slowly added dropwise to a solution of 5-carbomethoxy-1,2-dihydro-9H-carbazol-4(3H)-one (1.27 g, 5.22 mM) in 10 mL of DMF at 25° C. After 5 minutes, 2-fluorobenzyl bromide (1.19 g, 6.2 mM) was added and the resultant mixture stirred at room temperature for 17 days. The mixture was diluted with ethyl acetate, washed five times with H2O, once with saturated brine, dried over anhydrous magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel (elution with gradient methylene chloride/ethyl acetate) to afford 1.00 g (55%) of the 9-[(2-fluorophenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one as a tan foam. 1H NMR (DMSO-d6) δ 7.7 (dd, 1H, J=1 and 8 Hz), 7.4-7.2 (m, 4H), 7.1 (t, 1H, J=8 Hz), 6.7 (t, 1H, J=8 Hz), 5.65 (s, 2H), 3.8 (s, 3H), 3.0 (t, 2H, J=6 Hz), 2.45 (t, 2H, J=6 Hz), and 2.1 (m, 2H). IR (CHCl3, cm−1) 3050, 2950, 1725, 1652, 1464, 1441, 1288 and 1120. MS (ES) m/e 350, 352.

reactant | 5-carbomethoxy-1,2-dihydro-9H-carbazol-4(3H)-one | 5.22 mM, 1.27 g | C(=O)(OC)C1=C2C=3C(CCCC3NC2=CC=C1)=O | C14H13NO3
reactant | 2-fluorobenzyl bromide | 6.2 mM, 1.19 g | FC1=C(CBr)C=CC=C1 | C7H6BrF
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-[(2-fluorophenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one | 1.00 g, 55% | FC1=C(C=CC=C1)CN1C2=CC=CC(=C2C=2C(CCCC12)=O)C(=O)OC | C21H18FNO3
